US06617325B1
f. methyl 2-methyl-2-phenyl-5-{4-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-piperidin-1-yl}-pentanecarboxylate
0.611 g (1.75 mmol) of 4′-trifluoromethyl-biphenyl-2-carboxylic acid-piperidin-4-yl-amide, 0.5 g (1.75 mmol) of methyl 5-bromo-2-methyl-2-phenyl-pentanecarboxylate and 0.8 g (5.7 mmol) of potassium carbonate are dissolved in 50 ml dimethylformamide and mixed with water. The mixture is stirred for 72 hours at 90° C. Then the reaction mixture is poured onto water, the precipitate is filtered off and dried. After column chromatography on silica gel (eluant: ethyl acetate) colourless crystals are left.

reactant | 4′-trifluoromethyl-biphenyl-2-carboxylic acid-piperidin-4-yl-amide | 1.75 mmol, 0.611 g | N1CCC(CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C19H19F3N2O
reactant | methyl 5-bromo-2-methyl-2-phenyl-pentanecarboxylate | 1.75 mmol, 0.5 g | BrCCCC(CC(=O)OC)(C1=CC=CC=C1)C | C14H19BrO2
reactant | potassium carbonate | 5.7 mmol, 0.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | methyl 2-methyl-2-phenyl-5-{4-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-piperidin-1-yl}-pentanecarboxylate | CC(CC(=O)OC)(CCCN1CCC(CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C33H37F3N2O3
